US05877174
In a mixed solvent of 175 ml of a saturated aqueous sodium carbonate solution, 90 ml of water and 350 ml of methylene chloride was dissolved 17.5 g of 1-bromo-3-(4-amidinophenoxy)propane hydrochloride, and 8.5 ml of benzyloxycarbonyl chloride was added thereto under ice-cooling. The resulting mixture was vigorously stirred at the same temperature for 30 minutes and then at room temperature for 4 hours, after which the organic layer was separated and the aqueous layer was extracted with 150 ml of methylene chloride. The combined organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. Hexane was added to the resulting residue and the crystals were collected by filtration and dried to obtain 19.6 g of 1-bromo-3-(4-benzyloxycarbonylamidinophenoxy)propane as colorless crystals.

reactant | 1-bromo-3-(4-amidinophenoxy)propane hydrochloride | 17.5 g | Cl.BrCCCOC1=CC=C(C=C1)C(N)=N
reactant | benzyloxycarbonyl chloride | 8.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | sodium carbonate | 175 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 90 ml | O | H2O
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 1-bromo-3-(4-benzyloxycarbonylamidinophenoxy)propane | 19.6 g | BrCCCOC1=CC=C(C=C1)C(NC(=O)OCC1=CC=CC=C1)=N | C18H19BrN2O3
